US07648989B2
Preparation of [5-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-acetic acid
[5-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-acetic acid tert-butyl ester (1.68 g, 5.77 mmol) is dissolved in 4 M HCl in dioxane (28 ml). After 1 h at 60° C., TLC analysis indicated complete consumption of starting material. The reaction mixture is cooled to RT and diluted with Et2O. The precipitate is filtered and washed with Et2O to yield the title compound, which is used in the next reaction without further purification. 1H NMR (d6-DMSO 400 MHz): δ 2.79 (s, 3H), 3.05-4.10 (br m, 8H), 3.81 (s, 2H), 8.04 (s, 1H), 8.22 (s, 1H), 8.45 (s, 1H). ES+−MS: 236.4 [M+H]+.

reactant | [5-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-acetic acid tert-butyl ester | 5.77 mmol, 1.68 g | C(C)(C)(C)OC(CC=1C=NC=C(C1)N1CCN(CC1)C)=O | C16H25N3O2
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 28 ml | O1CCOCC1 | C4H8O2
product | [5-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-acetic acid | CN1CCN(CC1)C=1C=C(C=NC1)CC(=O)O | C12H17N3O2
